US08349865B2
Step 3: 5-{[5-(Aminomethyl)-2-methylphenyl]amino}-9-fluorobenzo[c]-2,6-naphthyridin-1(2H)-one
To a solution of 3-[(9-fluoro-1-oxo-1,2-dihydrobenzo[c]-2,6-naphthyridin-5-yl)amino]-4-methylbenzonitrile (40 mg, 0.12 mmol) in THF (1.1 mL) at 0° C. was added lithium aluminum hydride (0.4 mL, 1 M, 0.40 mmol). The reaction was stirred for 18 hours and then quenched by the addition of 0.02 mL water, then 0.02 mL 10% aq. NaOH and finally 0.05 mL water. The mixture was then poured into a separatory funnel with water and EtOAc. The mixture was extracted with EtOAc and the extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by silica gel column chromatographpy (0-10% MeOH/CH2Cl2 (with 1% NH4OH)) afforded the title compound.

reactant | 3-[(9-fluoro-1-oxo-1,2-dihydrobenzo[c]-2,6-naphthyridin-5-yl)amino]-4-methylbenzonitrile | 0.12 mmol, 40 mg | FC1=CC2=C(N=C(C=3C=CNC(C23)=O)NC=2C=C(C#N)C=CC2C)C=C1 | C20H13FN4O
reactant | lithium aluminum hydride | 0.40 mmol, 1 M, 0.4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
product | 5-{[5-(Aminomethyl)-2-methylphenyl]amino}-9-fluorobenzo[c]-2,6-naphthyridin-1(2H)-one | NCC=1C=CC(=C(C1)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)F)C | C20H17FN4O
